data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_24084_1,[C@:1]1([O:5][H:6])([H:7])[C@@:3]([C:2]([H:9])([H:10])[H:11])([H:8])[C:4]1([H:12])[H:13]>>[C:1]([C:3]([C:2]([H:9])([H:10])[H:11])=[C:4]([H:12])[H:13])([O:5][H:6])([H:7])[H:8],72.82137500000083
MR_59036_0,[C:1]([N:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:6])[O:5][H:7])([H:8])([H:9])[H:10]>>[C:1]([N:3]1[C:4]([C:2]([H:11])([H:12])[H:13])([O:5][H:7])[O:6]1)([H:8])([H:9])[H:10],69.5207250000054
MR_642105_1,[C:1](/[C:4](=[C:3](\[O:7]/[C:5](=[C:6](\[C:2]([H:17])([H:18])[H:19])[H:13])[H:12])[O:8][H:10])[O:9][H:11])([H:14])([H:15])[H:16]>>[C:1]([C:4]([C:3](=[O:7])[O:8][H:10])(/[C:5](=[C:6](\[C:2]([H:17])([H:18])[H:19])[H:13])[H:12])[O:9][H:11])([H:14])([H:15])[H:16],56.45554749999775
MR_47948_2,[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[C:6]([C:5](=[O:7])[H:10])([H:11])[C:4]([H:9])=[N:8]1>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[C:6]([H:11])=[C:5]([H:10])[O:7][C:4]([H:9])=[N:8]1,53.6336800000241
MR_155729_0,[C:1]([N:2]([H:9])[H:10])([N:3]([H:7])[H:8])(/[C:4](=[N:5]/[H:11])[H:12])[H:6]>>[C:1]([N:2]([H:9])[H:10])([N:3]([H:7])[H:8])(/[C:4](=[N:5]\[H:11])[H:6])[H:12],52.20360750001426
MR_659227_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:4]([O:6][H:8])[H:9])[C:5](=[O:7])[H:10]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[C:5]([N:4]([O:6][H:8])[H:9])([H:10])[O:7]1,67.50205750003701
MR_202409_1,[C@:1]([C:2]([H:12])([H:13])[H:14])([N:3]([C:4]([O:5][H:8])=[O:7])[H:10])([O:6][H:9])[H:11]>>[C@@:1]([C:2]([H:12])([H:13])[H:14])([O:6][H:9])([O:7]/[C:4](=[N:3]\[H:10])[O:5][H:8])[H:11],63.88389250000501
MR_226504_2,[C:1](/[N:6]=[C:3](/[C:2](=[C:4]([H:12])[H:13])[O:5][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:6]1[C:3]([H:8])=[C:2]([O:5][H:7])[C:4]1([H:12])[H:13])([H:9])([H:10])[H:11],53.35193249995072
MR_405029_1,[C:1]([C:3]([C:2]([N:4]([H:12])[H:13])=[O:8])=[C:5]([H:14])[H:15])([O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([C:3]([C:2]([N:4]([H:12])[H:13])([O:8][H:9])[H:11])=[C:5]([H:14])[H:15])(=[O:6])[O:7][H:10],62.96648750000273
MR_581382_1,[C:1]([C:3]([C:2]([H:16])([H:17])[H:18])([C:5]1([H:11])[C:6](/[C:7](=[N:4]/[H:10])[H:13])([H:12])[O:8]1)[H:9])([H:14])([H:15])[H:19]>>[C:1]([C:3]([C:2]([H:16])([H:17])[H:18])=[C:5]([O:8]/[C:6](=[C:7](\[N:4]([H:9])[H:10])[H:13])[H:12])[H:11])([H:14])([H:15])[H:19],38.48081000000832
MR_258048_2,[N:1]([C:2](=[C:3]([N:5]([H:12])[H:13])[N:6]([H:14])[H:15])[N:4]([H:10])[H:11])([O:7][H:8])[H:9]>>[N:1]([C:2](/[C:3]([N:5]([H:12])[H:13])=[N:6]/[H:14])([N:4]([H:10])[H:11])[H:8])([O:7][H:15])[H:9],47.96547249999591
MR_440425_1,[C:1](/[C:2](=[N:6]/[N:5]=[N:4]\[O:3][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:2]1([H:8])[N:4]([O:3][H:7])[N:5]=[N:6]1)([H:9])([H:10])[H:11],67.8227099999765
MR_239575_2,[C:1]([O:4][O:3][C:2]([O:5][H:7])=[O:6])([H:8])([H:9])[H:10]>>[C:1]([O:4][C:2]1([O:5][H:7])[O:3][O:6]1)([H:8])([H:9])[H:10],70.08798499999997
MR_642298_2,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:5]([N:3](/[N:6]=[N:7]/[H:9])[H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1](=[C:4]([C:2]([H:14])([H:15])[H:16])[C:5]1([H:10])[N:3]([H:8])[N:6]1[N:7]([H:9])[H:11])([H:12])[H:13],46.93386249999662
MR_162397_2,[C:1]([C:2]([H:14])([H:15])[H:16])([N:5]([H:9])[H:10])(/[C:7](=[C:4](\[C:3]([H:17])([H:18])[H:19])[N:6]([H:11])[H:12])[H:13])[H:8]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:7](\[C:4]([C:3]([H:17])([H:18])[H:19])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[H:13])[H:8],65.52856999999022
MR_164451_1,[C:1]([C:2]([C:6](=[O:8])[H:9])([H:12])[H:13])(/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:7]\[C:3]([H:14])([H:15])[H:16])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:5]1([C:4]([H:17])([H:18])[H:19])[N:7]([C:3]([H:14])([H:15])[H:16])[C:6](=[O:8])[H:9],70.33145499995598
MR_143902_0,[C:1]([N:3]1[C:4](=[O:5])[N:6]1[C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[N:3]=[C:4]1\[O:5][N:6]1[C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],33.88060749999454
MR_67368_1,[C:1]1([H:10])([H:11])[N:5]([H:8])[N:4]([C:2]([H:12])([H:13])[H:14])[C:7]([H:9])=[C:6]1[C:3]([H:15])([H:16])[H:17]>>[C:1]1([H:10])([H:11])[N:5]([H:8])[C:6]1([C:3]([H:15])([H:16])[H:17])/[C:7](=[N:4]/[C:2]([H:12])([H:13])[H:14])[H:9],54.35718749998088
MR_515798_1,[C:1](\[C:3]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])([O:9][H:12])[H:10])([C:4]([H:15])([H:16])[H:17])=[N:7]/[H:11]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([N:7]([H:11])[H:12])[C:3]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])([H:10])[O:9]1,35.76310750002136
MR_478013_1,[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])/[C:7]([C:6]([H:23])([H:24])[H:25])=[N:10]/[H:13])([C:3]([H:14])([H:15])[H:16])([O:8][H:12])[O:9][H:11]>>[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[C:7]([C:3]([H:14])([H:15])[H:16])([C:6]([H:23])([H:24])[H:25])[N:10]([H:11])[H:13])([O:8][H:12])=[O:9],54.20031250002026
